Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is an ___ male who was transferred from
___ 4 days after motor vehicle accident.
Patient was transferred for a second rib fracture as well as
a comminuted clavicular fracture and an unstable C2 fracture
on their evaluation. Patient was hit at a relatively high
speed MVC no airbag deployment unclear if loss of
consciousness and the car was totaled with intrusion per
report. Patient per report at that time denied transport to
the hospital but had increasing pain at home and his family
convinced him to go to the outside hospital where he had the
above evaluation. Patient is a stoic individual who is
complaining of no pain at this time. He was going
approximately 65 miles an hour at the time of the accident.
He is not on anticoagulation and his family states he has
been more confused than usual. Patient denies any shortness
of breath chest pain or cough. Patient has been ambulatory
since the accident.
 
Past Medical History:
HTN
Mild Alzheimer's Disease

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
General: Alert and Well Developed
HEENT:   Oropharynx / Throat: Normal Pharynx.
There is a healing abrasion on the forehead scleral is
anicteric patient has a normal posterior pharynx pupils are
equal upset reactive extraocular movements are intact there
is no facial instability or tenderness there is no midline
TL or S tenderness palpation however there is tenderness
over the upper C-spine. Neck: No Meningismus and Supple
Respiratory: No Resp Distress; There is tenderness over the
left chest wall left clavicle as well as ecchymosis there is
diffuse left chest wall tenderness to palpation, pelvis is
stable upper extremities otherwise have largely painless
range of motion save for pain of the left knee, there is
also superficial abrasion over the left knee
Cardio-Vascular: RRR Abdomen: No Organomegaly, Non-tender
and Soft Back: No CVA tenderness and Non-tender Extremity:
No edema and Normal Equal pulses Neurological: Alert,
Oriented X3 and No Gross Weakness Skin: No rash, No
Petechiae, Warm and Dry Psychological: Mood/Affect Normal
 

Discharge Physical Exam:
V T 97.4 BP 144/70 HR 67 RR 17 O2 98% on RA
Gen: pleasant, seated in chair in NAD, bed alarm in place
HEENT: ___ J collar in place, EOMI, abrasion to head
CV: RRR, no m/r/g
Pulm: CTAB, no w/r/r
Abd: NT, ND, decreased but active BS
Skin: Abrasion to top of head, healing well
MSK: ___ strength to EF, WE, EE, FF, HF, KE, DF, LTE, PF. 4+/5 
to
FAbd b/l
Neuro: Sensation intact to light touch C2-T1 b/l. ___
negative b/l. 1+ reflexes to brachioradialis, biceps, patellar,
and Achilles tendons b/l. 
Psych: Engaged, redirectable, circuitous thought and speech
pattern

 
Pertinent Results:
___ 04:16AM BLOOD WBC-6.5 RBC-3.52* Hgb-10.9* Hct-31.6* 
MCV-90 MCH-31.0 MCHC-34.5 RDW-11.9 RDWSD-38.6 Plt ___
___ 05:40PM BLOOD WBC-10.2* RBC-4.40* Hgb-13.5* Hct-39.7* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-11.9 RDWSD-39.5 Plt ___
___ 04:16AM BLOOD Glucose-102* UreaN-21* Creat-0.7 Na-134* 
K-3.4* Cl-95* HCO3-27 AnGap-12
___ 05:40PM BLOOD Glucose-113* UreaN-29* Creat-1.0 Na-135 
K-3.7 Cl-93* HCO3-27 AnGap-15
___ 05:40PM BLOOD ALT-12 AST-19 CK(CPK)-53 AlkPhos-58 
TotBili-1.6*
___ 04:16AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.6
___ 05:40PM BLOOD Albumin-3.9 Calcium-9.4 Phos-3.2 Mg-1.9

ECG: Interpretation: EKG is sinus with first-degree AV
block and occasional premature ventricular complexes there
is sinus arrhythmia and inferior infarct and no acute ST
elevation MI when compared with prior there is no
significant change

Radiology: 
(___) L Knee XR
     No fracture. 

(___) CT Chest/abd/pelvis
1. Redemonstrated comminuted left distal clavicle fracture. 
2. Acute minimally displaced left second through sixth rib
fractures. 
3. No evidence of intrathoracic or intra-abdominal traumatic
injury. 
4. 8 mm pancreatic tail cystic lesions suggests a side branch
IPMN. 
5. 5 mm left upper lobe pulmonary nodule. 
 
Brief Hospital Course:
___ year old male with PMH of Alzheimers, HTN, presented from OSH 
after sustaining MVC with left side impact found to have a 
moderately displaced type 2 dens fracture, left ___ rib 
fractures, and a left clavicular fracture. The patient was 
hemodynamically stable. He was admitted to the Trauma service 
for further care. Patient was evaluated by Ortho Spine, was not 
seen to have any neuro deficits. They recommended non-operative 
treatment with c-collar. Orthopedics was consulted for clavicle 
collar. They recommended non-operative treatment and non-weight 
bearing. 

Physical therapy and Occupational Therapy evaluated the patient 
and felt he was functioning below baseline. They recommended 
rehab.  At the time of discharge, the patient was doing well, 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating with assist, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged to rehab. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. He had follow-up scheduled in 
the Spine and ___ clinic. 

 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  amLODIPine 5 mg PO DAILY  
7.  Donepezil 5 mg PO QHS  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Metoprolol Succinate XL 12.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Type 2 dens fracture
Left clavicle fracture
Left ___ rib fractures

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a fall. You fractured your 
cervical spine, left clavicle, and left ribs. You were seen by 
the Spine service who recommended non-operative management of 
the neck fracture. You will need to wear the neck brace for the 
next ___ weeks, until follow-up in the spine clinic. You will 
also need to follow-up in the ___ clinic for repeat imaging of 
the clavicle fracture. You are now cleared for discharge to 
rehab to continue your recovery. 

* Your injury caused left ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___